US07414061B2
f) 1-{4-[4-(3-Phenyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-ethanone
To a solution of 4-(1H-imidazol-4-yl)-3-phenyl-isoxazole (106 mg, 0.5 mmol) in DMF (2.5 mL) was added 4-fluoroacetophenone (61 mL, 0.5 mmol) and potassium carbonate (138 mg, 1.0 mmol) and the resulting mixture heated at 120° C. overnight. The resulting mixture was then poured into HCl (1 N, 200 mL) and extracted with ethyl acetate which was then washed with brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (36 mg, 22%) which was obtained as a light yellow solid. MS: m/e=330.1 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-isoxazole | 0.5 mmol, 106 mg | N1C=NC(=C1)C=1C(=NOC1)C1=CC=CC=C1 | C12H9N3O
reactant | 4-fluoroacetophenone | 0.5 mmol, 61 mL | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N, 200 mL | Cl | ClH
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-(3-Phenyl-isoxazol-4-yl)-imidazol-1-yl]-phenyl}-ethanone | 36 mg, 22% | C1(=CC=CC=C1)C1=NOC=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O | C20H15N3O2
